US05811439
There was suspended 26.4 mg of 60% sodium hydride in 5 ml of dimethylformamide, followed by addition of a solution of 1-(2-hydroxy-2-phenylethyl)indole-4-carbaldehyde (160 mg) in dimethylformamide (2 ml) with ice-cooling. After stirring at room temperature for 15 minutes, the mixture was ice-cooled, then a solution of benzyl bromide (115.2 mg) in dimethylformamide (2 ml) was added thereto and stirred at room temperature for 3 hours. The reaction system was poured into 50 ml of a 10% ammonium chloride aqueous solution and extracted with ethyl acetate (50 ml×2). The resulting organic phase was washed with, in order, a 10% citric acid aqueous solution, a saturated sodium hydrogen carbonate aqueous solution and a saturated common salt solution, dried over anhydrous sodium sulfate and the solvent was removed through evaporation under reduced pressure to give a crude product. The crude product was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give 170 mg of 1-(2-benzyloxy-2-phenylethyl)indole-4-carbaldehyde as a yellow oily substance. The yield thereof was found to be 80%.

reactant | sodium hydride | 26.4 mg | [H-].[Na+]
reactant | 1-(2-hydroxy-2-phenylethyl)indole-4-carbaldehyde | 160 mg | OC(CN1C=CC=2C(=CC=CC12)C=O)C1=CC=CC=C1 | C17H15NO2
reactant | benzyl bromide | 115.2 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-(2-benzyloxy-2-phenylethyl)indole-4-carbaldehyde | 170 mg | C(C1=CC=CC=C1)OC(CN1C=CC=2C(=CC=CC12)C=O)C1=CC=CC=C1 | C24H21NO2
